* 5-Bit CLA Adder with TSPC DFF

.include TSMC_180nm.txt

.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param L_min = {2*LAMBDA}
.param W_N_DFF = {9*LAMBDA} 
.param W_P_DFF = {12*LAMBDA}
.param W_N = {10*LAMBDA}
.param W_P = {20*LAMBDA}

.global vdd gnd
Vdd vdd 0 {SUPPLY}

.subckt dff_tspc D clk Q
    M1 n_mid1 D    vdd vdd CMOSP W={W_P_DFF} L={L_min}
    M2 n1     clk  n_mid1 vdd CMOSP W={W_P_DFF} L={L_min}
    M3 n1     D    gnd gnd CMOSN W={W_N_DFF} L={L_min}

    M4 n2     n1   vdd vdd CMOSP W={W_P_DFF} L={L_min}
    M5 n2     clk  n_mid2 gnd CMOSN W={W_N_DFF} L={L_min}
    M6 n_mid2 n1   gnd gnd CMOSN W={W_N_DFF} L={L_min}

    M7 Q      n2   vdd vdd CMOSP W={W_P_DFF} L={L_min}
    M8 Q      n2   n4   gnd CMOSN W={W_N_DFF} L={L_min}
    M9 n4     clk  gnd  gnd CMOSN W={W_N_DFF} L={L_min}
.ends dff_tspc

.subckt my_inv in out
    Mp out in vdd vdd CMOSP W={W_P} L={L_min}
    Mn out in gnd gnd CMOSN W={W_N} L={L_min}
.ends my_inv

.subckt my_nand2 a b out
    Mp1 out a vdd vdd CMOSP W={W_P} L={L_min}
    Mp2 out b vdd vdd CMOSP W={W_P} L={L_min}
    Mn1 out a n1  gnd CMOSN W={2*W_N} L={L_min}
    Mn2 n1  b gnd gnd CMOSN W={2*W_N} L={L_min}
.ends my_nand2

.subckt my_nand3 a b c out
    Mp1 out a vdd vdd CMOSP W={W_P} L={L_min}
    Mp2 out b vdd vdd CMOSP W={W_P} L={L_min}
    Mp3 out c vdd vdd CMOSP W={W_P} L={L_min}
    Mn1 out a n1  gnd CMOSN W={3*W_N} L={L_min}
    Mn2 n1  b n2  gnd CMOSN W={3*W_N} L={L_min}
    Mn3 n2  c gnd gnd CMOSN W={3*W_N} L={L_min}
.ends my_nand3

.subckt my_nand4 a b c d out
    Mp1 out a vdd vdd CMOSP W={W_P} L={L_min}
    Mp2 out b vdd vdd CMOSP W={W_P} L={L_min}
    Mp3 out c vdd vdd CMOSP W={W_P} L={L_min}
    Mp4 out d vdd vdd CMOSP W={W_P} L={L_min}
    Mn1 out a n1  gnd CMOSN W={4*W_N} L={L_min}
    Mn2 n1  b n2  gnd CMOSN W={4*W_N} L={L_min}
    Mn3 n2  c n3  gnd CMOSN W={4*W_N} L={L_min}
    Mn4 n3  d gnd gnd CMOSN W={4*W_N} L={L_min}
.ends my_nand4

.subckt my_and2 a b out
    X1 a b n_out my_nand2
    X2 n_out out my_inv
.ends my_and2

.subckt my_or2 a b out
    X1 a a_bar my_inv
    X2 b b_bar my_inv
    X3 a_bar b_bar out my_nand2
.ends my_or2

.subckt my_xor2 a b out
    X1 a b ab_bar my_nand2
    X2 a ab_bar a_term my_nand2
    X3 b ab_bar b_term my_nand2
    X4 a_term b_term out my_nand2
.ends my_xor2

.subckt load_inv in out
    Mp out in vdd vdd CMOSP W={W_P} L={L_min}
    Mn out in gnd gnd CMOSN W={W_N} L={L_min}
.ends load_inv

.subckt cla_5bit a4 a3 a2 a1 a0 b4 b3 b2 b1 b0 cin s4 s3 s2 s1 s0 cout
    Xp0 a0 b0 p0 my_xor2
    Xg0 a0 b0 g0 my_and2
    Xp1 a1 b1 p1 my_xor2
    Xg1 a1 b1 g1 my_and2
    Xp2 a2 b2 p2 my_xor2
    Xg2 a2 b2 g2 my_and2
    Xp3 a3 b3 p3 my_xor2
    Xg3 a3 b3 g3 my_and2
    Xp4 a4 b4 p4 my_xor2
    Xg4 a4 b4 g4 my_and2

    X_c1_t1 p0 cin c1_t1 my_and2
    X_c1    g0 c1_t1 c1 my_or2

    X_c2_t1 p1 g0 c2_t1 my_and2
    X_c2_t2 p1 p0 cin c2_t2_bar my_nand3  
    X_c2_t2_inv c2_t2_bar c2_t2 my_inv
    X_c2_sum1 g1 c2_t1 c2_sum1 my_or2
    X_c2      c2_sum1 c2_t2 c2 my_or2

    X_c3_t1 p2 g1 c3_t1 my_and2
    X_c3_t2 p2 p1 g0 c3_t2_bar my_nand3
    X_c3_t2_inv c3_t2_bar c3_t2 my_inv
    X_c3_t3 p2 p1 p0 cin c3_t3_bar my_nand4
    X_c3_t3_inv c3_t3_bar c3_t3 my_inv
    X_c3_sum1 g2 c3_t1 c3_sum1 my_or2
    X_c3_sum2 c3_sum1 c3_t2 c3_sum2 my_or2
    X_c3      c3_sum2 c3_t3 c3 my_or2

    X_c4_t1 p3 g2 c4_t1 my_and2
    X_c4_t2 p3 p2 g1 c4_t2_bar my_nand3
    X_c4_t2_inv c4_t2_bar c4_t2 my_inv
    X_c4_t3 p3 p2 p1 g0 c4_t3_bar my_nand4
    X_c4_t3_inv c4_t3_bar c4_t3 my_inv
    X_c4_t4_A p3 p2 p1 t4_partA_bar my_nand3
    X_c4_t4_B p0 cin   t4_partB_bar my_nand2
    X_c4_t4_comb t4_partA_bar t4_partB_bar c4_t4_bar my_or2
    X_c4_t4_inv  c4_t4_bar c4_t4 my_inv
    X_c4_sum1 g3 c4_t1 c4_sum1 my_or2
    X_c4_sum2 c4_sum1 c4_t2 c4_sum2 my_or2
    X_c4_sum3 c4_sum2 c4_t3 c4_sum3 my_or2
    X_c4      c4_sum3 c4_t4 c4 my_or2

    X_c5_t1 p4 g3 c5_t1 my_and2
    X_c5_t2 p4 p3 g2 c5_t2_bar my_nand3
    X_c5_t2_inv c5_t2_bar c5_t2 my_inv
    X_c5_t3 p4 p3 p2 g1 c5_t3_bar my_nand4
    X_c5_t3_inv c5_t3_bar c5_t3 my_inv
    X_c5_t4_A p4 p3 p2 t5_4_A_bar my_nand3
    X_c5_t4_B p1 g0    t5_4_B_bar my_nand2
    X_c5_t4   t5_4_A_bar t5_4_B_bar c5_t4_bar my_or2
    X_c5_t4_i c5_t4_bar c5_t4 my_inv
    X_c5_t5_A p4 p3 p2 t5_5_A_bar my_nand3
    X_c5_t5_B p1 p0 cin t5_5_B_bar my_nand3
    X_c5_t5   t5_5_A_bar t5_5_B_bar c5_t5_bar my_or2
    X_c5_t5_i c5_t5_bar c5_t5 my_inv
    X_c5_sum1 g4 c5_t1 c5_sum1 my_or2
    X_c5_sum2 c5_sum1 c5_t2 c5_sum2 my_or2
    X_c5_sum3 c5_sum2 c5_t3 c5_sum3 my_or2
    X_c5_sum4 c5_sum3 c5_t4 c5_sum4 my_or2
    X_c5      c5_sum4 c5_t5 cout my_or2

    X_s0 p0 cin s0 my_xor2
    X_s1 p1 c1  s1 my_xor2
    X_s2 p2 c2  s2 my_xor2
    X_s3 p3 c3  s3 my_xor2
    X_s4 p4 c4  s4 my_xor2
.ends cla_5bit

Vclk clk 0 PULSE(0 {SUPPLY} 0 50p 50p 1n 2n)

Va0_in a0_in 0 DC 0
Va1_in a1_in 0 DC 0
Va2_in a2_in 0 DC 0
Va3_in a3_in 0 DC 0
Va4_in a4_in 0 DC 0

Vb0_in b0_in 0 PULSE(0 {SUPPLY} 3n 50p 50p 10n 20n)
Vb1_in b1_in 0 DC 0
Vb2_in b2_in 0 DC 0
Vb3_in b3_in 0 DC 0
Vb4_in b4_in 0 DC 0

Vcin_in cin_in 0 DC 0

XA0 a0_in clk a0_reg dff_tspc
XA1 a1_in clk a1_reg dff_tspc
XA2 a2_in clk a2_reg dff_tspc
XA3 a3_in clk a3_reg dff_tspc
XA4 a4_in clk a4_reg dff_tspc

XB0 b0_in clk b0_reg dff_tspc
XB1 b1_in clk b1_reg dff_tspc
XB2 b2_in clk b2_reg dff_tspc
XB3 b3_in clk b3_reg dff_tspc
XB4 b4_in clk b4_reg dff_tspc

XCin cin_in clk cin_reg dff_tspc

XCLA a4_reg a3_reg a2_reg a1_reg a0_reg b4_reg b3_reg b2_reg b1_reg b0_reg cin_reg s4_comb s3_comb s2_comb s1_comb s0_comb cout_comb cla_5bit

XS0 s0_comb clk s0_out dff_tspc
XS1 s1_comb clk s1_out dff_tspc
XS2 s2_comb clk s2_out dff_tspc
XS3 s3_comb clk s3_out dff_tspc
XS4 s4_comb clk s4_out dff_tspc
XCout cout_comb clk cout_out dff_tspc

XL0 s0_out out0_dum load_inv
XL1 s1_out out1_dum load_inv
XL2 s2_out out2_dum load_inv
XL3 s3_out out3_dum load_inv
XL4 s4_out out4_dum load_inv
XL5 cout_out outc_dum load_inv

.ic v(s0_out)=0 v(s1_out)=0 v(s2_out)=0 v(s3_out)=0 v(s4_out)=0 v(cout_out)=0

.tran 10p 10n uic

.control
    run
    set curplottitle = "5-Bit CLA with TSPC DFF - Final"
    set hcopypscolor = 1
    set color0 = white
    set color1 = black
    plot v(clk)+6 v(b0_in) v(b0_reg)+2 v(s0_out)+4
    hardcopy full_ckt.eps v(clk)+6 v(b0_in) v(b0_reg)+2 v(s0_out)+4
.endc

.end